US20010027196A1
N4-Ethyl-6-furan-2-yl-5-iodo-pyrimidine-2,4-diamine
From 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine and ethylamine in THF. ES-MS m/e (%): 331 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)S(=O)C)N | C9H8IN3O2S
reactant | ethylamine | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | N4-Ethyl-6-furan-2-yl-5-iodo-pyrimidine-2,4-diamine | C(C)NC1=NC(=NC(=C1I)C=1OC=CC1)N | C10H11IN4O
